US06218376B1
i) 2-Methyl-4H-benzo[5,6]cyclohepta[1,2-d]oxazol-4-one
A stirred mixture of 9,10-dihydro-2-methyl-4H-benzo[5,6]cyclohepta[1,2-d]oxazol-4-one (9.52 g) (J. Med. Chem., 1974, 17, 1316) and N-bromosuccinimide (7.95 g) in benzene (200 ml) was irradiated with a 500 Watt halogen lamp for 2 h. The mixture was then treated with N,N-diisopropylethylamine (15.5 ml) and set at reflux for 1 hour. The mixture was then partitioned between ethyl acetate and water. The organic phase was collected, dried (MgSO4) and solvent evaporated under reduced pressure. Purification was by recrystallisation from ethyl acetate to give a buff solid.

reactant | 9,10-dihydro-2-methyl-4H-benzo[5,6]cyclohepta[1,2-d]oxazol-4-one | 9.52 g | CC=1OC2=C(N1)C(C1=C(CC2)C=CC=C1)=O | C13H11NO2
reactant | N-bromosuccinimide | 7.95 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-diisopropylethylamine | 15.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-Methyl-4H-benzo[5,6]cyclohepta[1,2-d]oxazol-4-one | CC=1OC2=C(N1)C(C1=C(C=C2)C=CC=C1)=O | C13H9NO2
